US04236012
To 7.96 g of 4-(o-chlorophenyl)-1,2-butene was added 150 ml of a chloroform solution containing perbenzoic acid prepared from 27.0 g of benzoyl peroxide, and the mixture was allowed to stand at 0° to 5° C. for 5 days. The mixture was washed in turn with a 10% sodium hydroxide solution, a saturated sodium chloride solution, Mohr's salt solution, a 10% sodium hydrogencarbonate solution and a saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain a residue, which was distilled to give 6.96 g (yield: 80%) 1,2-epoxy-4-(o-chlorophenyl)butane as a colorless liquid having a boiling point of 103° to 106° C.

reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | benzoyl peroxide | 27.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,2-epoxy-4-(o-chlorophenyl)butane | 6.96 g, yield: 80% | O1CC1CCC1=C(C=CC=C1)Cl | C10H11ClO
